US04299769
1-[3-(Benzoylthio)-3-(5-chloro-2-thenoyl)propionyl]-L-proline
As for Example 21, 0.01 mole of 1-[3-bromo-3-(5-chloro-2-thenoyl)propionyl]-L-proline is reacted with sodium thiobenzoate for 16 hours in acetonitrile to give the product of the Example as a glass.

reactant | 1-[3-bromo-3-(5-chloro-2-thenoyl)propionyl]-L-proline | 0.01 mole | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC=C(S1)Cl)=O | C13H13BrClNO4S
reactant | sodium thiobenzoate | C(C1=CC=CC=C1)(=S)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[3-(Benzoylthio)-3-(5-chloro-2-thenoyl)propionyl]-L-proline | C(C1=CC=CC=C1)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC=C(S1)Cl)=O | C20H18ClNO5S2
